US08461185B2
2′-fluoro-4′-methyl-5-[(5S)-5-(2-pyridinyl)-4,5-dihydro-3-isoxazolyl]-N-[(1S)-1-(4H-1,2,4-triazol-3-yl)ethyl]-3-biphenylcarboxamide
To a solution of 2′-fluoro-4′-methyl-5-[(5S)-5-(2-pyridinyl)-4,5-dihydro-3-isoxazolyl]-3-biphenylcarboxylic acid (125 mg, 0.227 mmol) in N,N-dimethylformamide (1 mL) were added (1S)-1-(4H-1,2,4-triazol-3-yl)ethanamine hydrochloride salt (52 mg, 0.283 mmol), EDC (65 mg, 0.340 mmol), HOAT (9 mg, 0.068 mmol) and triethylamine (95 μL, 0.680 mmol). The reaction mixture was stirred at ambient temperature for 18 h. Water was added. Purification by reverse phase HPLC(C-18, 95% water/acetonitrile→5% water/acetonitrile with 0.05% ammonium hydroxide), and concentration gave the free base. Concentrate was taken up in dichloromethane into which hydrogen chloride gas was bubbled. Concentration gave the title compound as the hydrochloride salt (94.0 mg). HRMS 471.1977 (M+1). 1H NMR (500 MHz, CD 30D): δ 8.94 (s, 1H); 8.78 (d, J=5.6 Hz, 1H); 8.53 (t, J=7.7 Hz, 1H); 8.25 (t, J=1.7 Hz, 1H); 8.16 (t, J=1.6 Hz, 1H); 8.11-8.07 (m, 2H); 7.94 (t, J=6.6 Hz, 1H); 7.46 (t, J=7.9 Hz, 1H); 7.15-7.07 (m, 2H); 6.18 (dd, J=11.4, 6.6 Hz, 1H); 5.50-5.45 (m, 1H); 4.21 (dd, J=17.3, 11.5 Hz, 1H); 3.86 (dd, J=20.8, 7.9 Hz, 1H); 2.41 (s, 3H); 1.74 (d, J=7.1 Hz, 3H).

reactant | 2′-fluoro-4′-methyl-5-[(5S)-5-(2-pyridinyl)-4,5-dihydro-3-isoxazolyl]-3-biphenylcarboxylic acid | 0.227 mmol, 125 mg | FC1=C(C=CC(=C1)C)C1=CC(=CC(=C1)C1=NO[C@@H](C1)C1=NC=CC=C1)C(=O)O | C22H17FN2O3
reactant | (1S)-1-(4H-1,2,4-triazol-3-yl)ethanamine hydrochloride salt | 0.283 mmol, 52 mg | Cl.N=1N=C(NC1)[C@H](C)N
reactant | EDC | 0.340 mmol, 65 mg
reactant | HOAT | 0.068 mmol, 9 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | triethylamine | 0.680 mmol, 95 μL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 2′-fluoro-4′-methyl-5-[(5S)-5-(2-pyridinyl)-4,5-dihydro-3-isoxazolyl]-N-[(1S)-1-(4H-1,2,4-triazol-3-yl)ethyl]-3-biphenylcarboxamide | FC1=C(C=CC(=C1)C)C1=CC(=CC(=C1)C1=NO[C@@H](C1)C1=NC=CC=C1)C(=O)N[C@@H](C)C1=NN=CN1 | C26H23FN6O2
